US07169797B2
5-{3-(3-(3-Hydroxy-2-methoxycarbonyl-phenoxy)-propyl)-phenyl}-isoxazole-3-carboxylic acid
To 5-(3-(3-hydroxy-propyl)-phenyl)-isoxazole-3-carboxylic acid ethyl ester (31 mg, 0.1 mmol) was added triphenylphosphine (29 mg, 0.11 mmol), methyl (2,6-dihydroxy)benzoate (20 mg, 0.12 mmol), then THF (1 mL). After the solids had dissolved, diethylazodicarboxylate (20 μL, 0.13 mmol) was added, and the reaction was stirred at ambient temperature for 1 hour. The reaction was concentrated in vacuo, and the residue was taken up in aqueous 2M NaOH (1 mL), along with enough methanol to make the solution homogeneous. After stirring for 10 minutes, the solvents were removed in vacuo, glacial acetic acid (4 drops)was added, and the product was purified by reverse phase HPLC, eluting with a acetonitrile/0.1% aq. trifluoroacetic acid gradient to provide the title compound (2.7 mg, 7%). 1H NMR (500 MHz, d6-DMSO) δ 9.94 (s, 1H), 7.79 (s, 1H), 7.76 (d, 1H, J=7.8 Hz), 7.46 (t, 1H, J=7.6 Hz), 7.37 (d, 1H, J=7.5 Hz), 7.34 (s, 1H), 7.15 (t, 1H, J=8.3 Hz), 6.49 (dd, 2H, J=2.8, 8.4 Hz), 3.95 (t, 2H, J=6.2 Hz), 3.79 (s, 3H), 2.78 (t, 2H, J=7.5 Hz), 2.01 (m, 2H); MS (ESI) m/z 398 (M+H), 415 (M+NH4).

reactant | 5-(3-(3-hydroxy-propyl)-phenyl)-isoxazole-3-carboxylic acid ethyl ester | 0.1 mmol, 31 mg | C(C)OC(=O)C1=NOC(=C1)C1=CC(=CC=C1)CCCO | C15H17NO4
reactant | triphenylphosphine | 0.11 mmol, 29 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl (2,6-dihydroxy)benzoate | 0.12 mmol, 20 mg | OC1=C(C(=O)OC)C(=CC=C1)O | C8H8O4
reactant | diethylazodicarboxylate | 0.13 mmol, 20 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-{3-(3-(3-Hydroxy-2-methoxycarbonyl-phenoxy)-propyl)-phenyl}-isoxazole-3-carboxylic acid | 2.7 mg, 7% | OC=1C(=C(OCCCC=2C=C(C=CC2)C2=CC(=NO2)C(=O)O)C=CC1)C(=O)OC | C21H19NO7
